US06492383B1
1-(4-{4-[4-(1H-Indol-5-ylamino)-thieno(3,2-d]pyrimidin-6-yl]-benzyl}-piperazin-1-yl-ethanone
The title compound was prepared from 1-piperazin-1-yl-ethanone and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 163-180° C.; LC-MS: 483 (MH+); HPLC RT: 4.24 minutes.

reactant | 1-piperazin-1-yl-ethanone | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | 4-{4-[4-(1H-Indol-5-ylamino)-thieno(3,2-d]pyrimidin-6-yl]-benzyl}-piperazin-1-yl-ethanone | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | C27H26N6OS
